US09126945B2
Methyl 2-chloro-5-({[1-methyl-3-(pentafluoroethyl)-4-(trifluoromethyl)-1H-pyrazol-5-yl]carbonyl}amino)benzoate
A solution of 4.24 g (12.8 mmol) of 1-methyl-3-(pentafluoroethyl)-4-(trifluoromethyl)-1H-pyrazole-5-carbonyl chloride in 25 ml of dichloromethane p.a. is added to a suspension of 2.38 g (12.8 mmol) of methyl 5-amino-2-chlorobenzoate and 2.57 g (19.2 mmol) of silver(I) cyanide in 50 ml of dichlormethane p.a., and the mixture is stirred at room temperature for 16 h. The suspension is then filtered through silica gel and the product is eluted using a mixture of cyclohexane and ethyl acetate (1:1). The organic phase is washed successively three times with 6N hydrochloric acid and twice with saturated sodium chloride solution. The organic phase is then dried over sodium sulphate, filtered and concentrated on a rotary evaporator under reduced pressure. This gives 5.75 g (93%) of methyl 2-chloro-5-({[1-methyl-3-(pentafluoroethyl)-4-(trifluoromethyl)-1H-pyrazol-5-yl]carbonyl}amino)benzoate.

reactant | 1-methyl-3-(pentafluoroethyl)-4-(trifluoromethyl)-1H-pyrazole-5-carbonyl chloride | 12.8 mmol, 4.24 g | CN1N=C(C(=C1C(=O)Cl)C(F)(F)F)C(C(F)(F)F)(F)F | C8H3ClF8N2O
reactant | methyl 5-amino-2-chlorobenzoate | 12.8 mmol, 2.38 g | NC=1C=CC(=C(C(=O)OC)C1)Cl | C8H8ClNO2
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
solvent | dichlormethane | 50 ml | ClCCl | CH2Cl2
catalyst | silver(I) cyanide | 19.2 mmol, 2.57 g | [Ag]C#N
product | Methyl 2-chloro-5-({[1-methyl-3-(pentafluoroethyl)-4-(trifluoromethyl)-1H-pyrazol-5-yl]carbonyl}amino)benzoate | ClC1=C(C(=O)OC)C=C(C=C1)NC(=O)C1=C(C(=NN1C)C(C(F)(F)F)(F)F)C(F)(F)F | C16H10ClF8N3O3
